### PR TITLE
[Merged by Bors] - feat: Linear order on upper/lower sets

### PR DESCRIPTION
**Pull request by YaelDillies**
Match https://github.com/leanprover-community/mathlib/pull/19068

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Order/UpperLower.lean [hunk 1]
```diff
@@ -42,15 +42,12 @@ section OrderedCommGroup
 variable {α : Type*} [OrderedCommGroup α] {s t : Set α} {a : α}
 
 @[to_additive]
-theorem IsUpperSet.smul (hs : IsUpperSet s) : IsUpperSet (a • s) := by
-  rintro _ y hxy ⟨x, hx, rfl⟩
-  exact mem_smul_set_iff_inv_smul_mem.2 (hs (le_inv_mul_iff_mul_le.2 hxy) hx)
+theorem IsUpperSet.smul (hs : IsUpperSet s) : IsUpperSet (a • s) := hs.image $ OrderIso.mulLeft _
```
Comment (eric-wieser) [inline Mathlib/Algebra/Order/UpperLower.lean:45]: The style guide say `<|` should be used (which is what mathport wrote anyway)

> Note: while `$` is a synonym for `<|`, its
use in mathlib is disallowed in favor of `<|` for consistency as well as 
because of the symmetry with `|>`

**Review by eric-wieser — APPROVED** [review]
Just a style fix needed, then this is good to go.

**Review by eric-wieser — APPROVED** [review]
bors d+

**Comment by eric-wieser** [comment]
bors merge
